US05387585
4. 14.15 g of crude 4-chloro-2,5-dimethylquinazoline are suspended in 300 ml of tetrahydrofuran, cooled to 5° C. and treated with 16.5 ml of 2,2-dimethoxyethylamine while stirring. The mixture is stirred at room temperature for 24 h., a further 10 ml of 2,2-dimethoxyethylamine are added thereto and the mixture is stirred for a further 40 h. The reaction mixture is evaporated in vacuum and the residue is partitioned between chloroform and saturated aqueous sodium hydrogen carbonate solution. The chloroform solution is evaporated in a vacuum. The residue (21 g) is chromatographed over 150 g of silica gel. 1.85 g of 4-(2,2-dimethoxyethylamino)-2,5-dimethylquinozoline are eluted with ethyl acetate. These are recrystallized from hexane. There are obtained 18.3 g of 4-(2,2-dimethoxyethyl-amino)-2,5-dimethylquinazoline of m.p. 48°-49° C.

reactant | 4-chloro-2,5-dimethylquinazoline | 14.15 g | ClC1=NC(=NC2=CC=CC(=C12)C)C | C10H9ClN2
reactant | 2,2-dimethoxyethylamine | 16.5 ml | COC(CN)OC | C4H11NO2
reactant | 2,2-dimethoxyethylamine | 10 ml | COC(CN)OC | C4H11NO2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4-(2,2-dimethoxyethyl-amino)-2,5-dimethylquinazoline | 18.3 g | COC(CNC1=NC(=NC2=CC=CC(=C12)C)C)OC | C14H19N3O2
